US04567282
In 400 ml of pure water was suspended 43.2 g of 5,6-O-isopropylidene-L-ascorbic acid, and 40 g of calcium carbonate was added. The mixture was cooled and 80 ml of 30% aqueous hydrogen peroxide was added dropwise while maintaining the temperature at 10° C. or below. Thereafter, the temperature was raised to 20° C. over a period of an hour, followed by stirring at the same temperature for 2 hours and at 30° to 35° C. for 30 minutes. To the reaction mixture were portionwise added 8 g of activated carbon and 1 g of 10 w/w % palladium-on-carbon (50 w/w % hydrous) to treat the unreacted hydrogen peroxide therewith and the mixture was cooled, followed by removal of the insoluble substance with the aid of Hyflo Super-Cel to give 650 ml of an aqueous solution containing CIT. Thereafter, according to the procedure of Example 2 there was synthesized (S)-glyceraldehyde acetonide and the acetonide was then converted to (S)-glyceraldehyde acetonide 2,4-dimethoxybenzylimine. The yield of the imine was 39.3 g (70% overall yield from 5,6-O-isopropylidene-L-ascorbic acid).

reactant | (S)-glyceraldehyde acetonide | [CH2-]C(=O)C.O=C[C@@H](O)CO
reactant | acetonide | [CH2-]C(=O)C
reactant | (S)-glyceraldehyde acetonide 2,4-dimethoxybenzylimine | COC1=C(CN=C([CH2-])C)C=CC(=C1)OC.O=C[C@@H](O)CO
product | 5,6-O-isopropylidene-L-ascorbic acid | CC1(OCC(O1)C2C(=C(C(=O)O2)O)O)C | C9H12O6
